US05126448
In 5 ml of chloroform were dissolved 0.34 g of 4-(1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carbonyl)morpholine hydrochloride, 0.31 ml of triethylamine, and 0.11 g of methyl bromide, and the solution was refluxed for 30 minutes. Chloroform was distilled off under reduced pressure, 20 ml of an aqueous 5% sodium hydrogencarbonate solution and 50 ml of ethyl acetate were added to the residue, and the ethyl acetate layer was washed with a saturated sodium chloride solution and dried by sodium sulfate. Then, ethyl acetate was distilled under reduced pressure and the residue was purified by silica gel thin layer chromatography. Then, 1 ml of a mixture of 1N hydrochloric acid in ethyl acetate was added to the residue and crystals deposited were collected by filtration to provide 0.29 g (yield of 82%) of 4-(2 -methyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carbonyl)morpholine.hydrochloride.

reactant | 4-(1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carbonyl)morpholine hydrochloride | 0.34 g | Cl.S1CC(C2C13C(=NCC2)C=CC=C3)C(=O)N3CCOCC3
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | methyl bromide | 0.11 g | CBr | CH3Br
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2 -methyl-1,2,3,4-tetrahydrobenzo[b]thieno[2,3-c]pyridine-3-carbonyl)morpholine.hydrochloride | 0.29 g, yield of 82% | Cl.CC1C(C2C3(C(=NCC2)C=CC=C3)S1)C(=O)N1CCOCC1 | InChI=1S/C17H22N2O2S.ClH/c1-12-15(16(20)19-8-10-21-11-9-19)13-5-7-18-14-4-2-3-6-17(13,14)22-12;/h2-4,6,12-13,15H,5,7-11H2,1H3;1H
